US05104889
Production of 2,6-di-tert-butyl-4-[(4-methyl-2-thiazolyl)oxy]phenol
O-(3,5-Di-tert-butyl-4-hydroxyphenyl) thiocarbamate (1.5 g) and 1.3 g of chloroacetone were dissolved in 60 ml of acetic acid, and the solution was heated at 90°-100° C. for 15 hours. The reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The crude product obtained was purified by silica gel column chromatography (diethyl ether-hexane =1:4) to give 1.0 g of the desired compound as a colorless solid.

reactant | O-(3,5-Di-tert-butyl-4-hydroxyphenyl) thiocarbamate | 1.5 g | C(N)(OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=S | C15H23NO2S
reactant | chloroacetone | 1.3 g | ClCC(C)=O | C3H5ClO
reactant | water | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2,6-di-tert-butyl-4-[(4-methyl-2-thiazolyl)oxy]phenol | 1.0 g | C(C)(C)(C)C1=C(C(=CC(=C1)OC=1SC=C(N1)C)C(C)(C)C)O | C18H25NO2S
